US07560546B2
5-Acetylamino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
5-Amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide trifluoroacetate salt (22 mg, 0.050 mmol, 1.0 equiv) was suspended in 3 mL of dichloromethane. Acetic anhydride (10 μL, 0.006 mmol, 1.2 equiv) and triethylamine (0.020 μL, 0.13 mmol, 2.5 equiv) were added and the reaction was stirred for 48 hours. The solvent was removed in vacuo and the title compound was obtained after purification by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. ESI+MS: 367.3 [M+H]+.

reactant | 5-Amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide trifluoroacetate salt | 0.050 mmol, 22 mg, 1.0 equiv | FC(C(=O)O)(F)F.NC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1
reactant | Acetic anhydride | 0.006 mmol, 10 μL, 1.2 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.13 mmol, 0.020 μL, 2.5 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-Acetylamino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | C(C)(=O)NC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C15H18N4O5S
